US05719152
4) 5-tert-Butoxycarbonylaminomethyl-2-nitrobenzylalcohol
To a solution of methyl 5-tert-butoxycarbonylaminomethyl-2-nitrobenzoate (2.0 g, 6.45 mmol) and sodium borohydride (740 mg, 19.56 mmol) in THF (11 mL) was added dropwise methanol (1.5 mL) over 1.5 h under reflux. After the addition was completed, the excess reagent was decomposed with 5% aqueous potassium hydrogen sulfate. The mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography with 3:1 to 1:1 hexane/ethyl acetate to give 1.16 g of the title compound (64%).

reactant | methyl 5-tert-butoxycarbonylaminomethyl-2-nitrobenzoate | 6.45 mmol, 2.0 g | C(C)(C)(C)OC(=O)NCC=1C=CC(=C(C(=O)OC)C1)[N+](=O)[O-] | C14H18N2O6
reactant | sodium borohydride | 19.56 mmol, 740 mg | [BH4-].[Na+]
reactant | methanol | 1.5 mL | CO | CH4O
reactant | potassium hydrogen sulfate | S(=O)(=O)(O)[O-].[K+]
solvent | THF | 11 mL | C1CCOC1 | C4H8O
product | 5-tert-Butoxycarbonylaminomethyl-2-nitrobenzylalcohol | 1.16 g, 64% | C(C)(C)(C)OC(=O)NCC=1C=CC(=C(CO)C1)[N+](=O)[O-] | C13H18N2O5
